US06544976B1
(2S)-1-(Benzyloxycarbonyl)azetidine-2-carboxylic acid chloride
(2S)-1-(benzyloxycarbonyl)azetidine-2-carboxylic acid (729.3 mg, 3.10 mmol, 1.0 eq) was dissolved in dry dichloromethane (15 mL) and cooled to about −5° C. under argon. Oxalyl chloride (380 μL, 4.36 mmol, 1.4 eq) and a drop of DMF were added to the solution. The mixture was warmed to reflux temperature with stirring over about a 3 hour period. After cooling, the mixture was concentrated and used in Reference Example 16.

reactant | (2S)-1-(benzyloxycarbonyl)azetidine-2-carboxylic acid | 3.10 mmol, 729.3 mg, 1.0 eq | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CC1)C(=O)O | C12H13NO4
reactant | Oxalyl chloride | 4.36 mmol, 380 μL, 1.4 eq | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | CN(C)C=O | C3H7NO
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | (2S)-1-(Benzyloxycarbonyl)azetidine-2-carboxylic acid chloride | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CC1)C(=O)Cl | C12H12ClNO3
